US08404691B2
Step 1: methyl N-[(1-{[(benzyloxy)carbonyl]amino}cyclopropyl)methyl]-D-leucinate
Methyl D-leucinate hydrochloride (2.73 g, 15.1 mmol), zinc chloride (2.8 g, 20.5 mmol), and sodium triacetoxyborohydride (9.16 g, 41.1 mmol) were added to a dichloromethane (200 ml) solution of benzyl (1-formylcyclopropyl)carbamate (3.0 g, 13.7 mmol) and the resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure, the residue obtained was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate solution and saturated brine and then the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue obtained was purified by silica gel column chromatography [n-hexane:ethyl acetate=2:1 (v/v)] to give the title compound (2.24 g, 47%) as a pale yellow oil.

reactant | Methyl D-leucinate hydrochloride | 15.1 mmol, 2.73 g | Cl.N[C@H](CC(C)C)C(=O)OC
reactant | sodium triacetoxyborohydride | 41.1 mmol, 9.16 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | benzyl (1-formylcyclopropyl)carbamate | 13.7 mmol, 3.0 g | C(=O)C1(CC1)NC(OCC1=CC=CC=C1)=O | C12H13NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 20.5 mmol, 2.8 g | [Cl-].[Zn+2].[Cl-]
product | methyl N-[(1-{[(benzyloxy)carbonyl]amino}cyclopropyl)methyl]-D-leucinate | 2.24 g, 47% | C(C1=CC=CC=C1)OC(=O)NC1(CC1)CN[C@H](CC(C)C)C(=O)OC | C19H28N2O4
